US05446189
A mixture of 1.0 g (1.92 mmol) of N-[3-hydroxy-5-(octadecyloxy)phenyl]-N-(2-methoxy-2-oxoethyl)glycine methyl ester, 0.84 g (2.88 mmol) of 1-(3-bromopropoxy)-4-(methylsulfonyl) benzene, 0.53 g (3.83 mmol) of potassium carbonate and 0.3 g (1.92 mmol) of sodium iodide in 30 ml of acetone and 6 ml of DMF was stirred at refluxunder argon for 72 hours. The solvents were removed at reduced pressure andthe residual oil was purified by three recrystallizations from methylene chloride-methanol to give 1.03 g (73% yield, mp 70°-72°) of N-(2-methoxy-2-oxoethyl)-N-[3-[3-[4-(methylsulfonyl)phenoxy]propoxy]-5-(octadecyloxy)-phenyl]glycine methyl ester.

reactant | N-[3-hydroxy-5-(octadecyloxy)phenyl]-N-(2-methoxy-2-oxoethyl)glycine methyl ester | 1.92 mmol, 1.0 g | COC(CN(CC(=O)OC)C1=CC(=CC(=C1)OCCCCCCCCCCCCCCCCCC)O)=O | C30H51NO6
reactant | 1-(3-bromopropoxy)-4-(methylsulfonyl) benzene | 2.88 mmol, 0.84 g | BrCCCOC1=CC=C(C=C1)S(=O)(=O)C | C10H13BrO3S
reactant | potassium carbonate | 3.83 mmol, 0.53 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 1.92 mmol, 0.3 g | [I-].[Na+]
solvent | acetone | 30 ml | CC(=O)C | C3H6O
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
product | N-(2-methoxy-2-oxoethyl)-N-[3-[3-[4-(methylsulfonyl)phenoxy]propoxy]-5-(octadecyloxy)-phenyl]glycine methyl ester | 1.03 g, 73% yield | COC(CN(C1=CC(=CC(=C1)OCCCCCCCCCCCCCCCCCC)OCCCOC1=CC=C(C=C1)S(=O)(=O)C)CC(=O)OC)=O | C40H63NO9S
